US06388084B1
A mixture of 3-bromo-1H-2-pyridone (740 mg, 4.25 mmol), potassium carbonate (1.18 g, 8.5 mmol) and iodomethane (2.65 mL, 42.5 mmol) in DME (10 mL) was heated to reflux overnight. The mixture was filtered, washing with ethyl acetate and the filtrate was evaporated to dryness. The residue was purified by dry column chromatography over 27 g of silica gel, eluting with ethyl acetate to give 3-bromo-1-methyl-2-pyridone (0.63 g, 79%). LRMS (electrospray), positive ion, 188 (M+H).

reactant | 3-bromo-1H-2-pyridone | 4.25 mmol, 740 mg | BrC=1C(NC=CC1)=O | C5H4BrNO
reactant | potassium carbonate | 8.5 mmol, 1.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 42.5 mmol, 2.65 mL | IC | CH3I
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 3-bromo-1-methyl-2-pyridone | 0.63 g, 79% | BrC=1C(N(C=CC1)C)=O | C6H6BrNO
